US06492569B1
A residue of 3.9 g consisting of bromine and dibromotetrafluorobenzene remains in the boiler in a ratio of about 1:1. The calculated yield to bromotetrafluorobenzene with respect to the distillate is 33.4%.

reactant | bromine | BrBr | Br2
reactant | dibromotetrafluorobenzene | BrC1=C(C(=C(C(=C1F)F)F)F)Br | C6Br2F4
product | bromotetrafluorobenzene | BrC=1C(=C(C(=C(C1)F)F)F)F | C6HBrF4
